US06207678B1
1-Methanesulphonyloxy-2-(3,4-dichlorophenyl)-4-(tetrahydropyran-2-yloxy)butane (10 g) (see Preparation 29), imidazole (2.07 g) and potassium carbonate (7.65 g) were dissolved in anhydrous acetonitrile (50 ml) and heated under reflux under a nitrogen atmosphere for 3 days. The organic solvent was then removed under reduced pressure and the resulting aqueous suspension partitioned between dichloromethane and water. The organic phase was separated, washed sequentially with water and brine, dried over anhydrous sodium sulphate and the solvent removed under reduced pressure. The crude product was chromatographed on silica gel eluting with 95:5, by volume, dichloromethane:methanol to give 1-(imidazol-1-yl)-2-(3,4-dichlorophenyl)-4-(tetrahydropyran-2-yloxy)butane (3 g) as an oil and as a mixture of diastereomers.

reactant | 1-Methanesulphonyloxy-2-(3,4-dichlorophenyl)-4-(tetrahydropyran-2-yloxy)butane | 10 g | CS(=O)(=O)OCC(CCOC1OCCCC1)C1=CC(=C(C=C1)Cl)Cl | C16H22Cl2O5S
reactant | imidazole | 2.07 g | N1C=NC=C1 | C3H4N2
reactant | potassium carbonate | 7.65 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 1-(imidazol-1-yl)-2-(3,4-dichlorophenyl)-4-(tetrahydropyran-2-yloxy)butane | 3 g | N1(C=NC=C1)CC(CCOC1OCCCC1)C1=CC(=C(C=C1)Cl)Cl | C18H22Cl2N2O2
